US08106053B2
Synthesis of 5-(3-(cyclopentyloxy)-4-methoxyphenyl)-2,6-dimethylpyridazin-3-one (Table 1, Compound No. 20)
Using a method similar to Working Example 1 (1)-(4), 3-(cyclopentyloxy)-4-methoxybenzaldehyde was substituted for 3,4-dimethoxybenzaldehyde, methyl(1-methylsulfinyl)ethyl)sulfine for methyl methylsulfinyl-methylsulfide, and methylhydrazine for hydrazine hydrate to obtain the title compound.

reactant | 3-(cyclopentyloxy)-4-methoxybenzaldehyde | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | 3,4-dimethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | methyl methylsulfinyl-methylsulfide | CC(S(=O)C)SC(C)S(=O)C | C6H14O2S3
reactant | methylhydrazine | CNN | CH6N2
reactant | hydrazine hydrate | O.NN
product | 5-(3-(cyclopentyloxy)-4-methoxyphenyl)-2,6-dimethylpyridazin-3-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1=CC(N(N=C1C)C)=O | C18H22N2O3
